US06900215B2
A mixture of imidazo[1,2-α]pyrimidine-7-carboxylic acid methyl ester (580 mg) and 28% ammonium hydroxide was heated at 100° C. in a sealed tube for 2 h then cooled to ambient temperature. The resulting solid was filtered, washed with ice-cold water and dried under vacuum to give imidazo[1,2-α]pyrimidine-7-carboxylic acid amide (310 mg, 58%) as a white solid: δH (360 MHz, DMSO) 7.61 (1H, d, J 7), 7.77 (1H, s), 7.92 (1H, d, J 1), 8.09 (1H, d, J 1), 8.32 (1H, s), 9.11 (1H, d, J 7).

reactant | imidazo[1,2-α]pyrimidine-7-carboxylic acid methyl ester | 580 mg | COC(=O)C1=NC=2N(C=C1)C=CN2 | C8H7N3O2
reactant | ammonium hydroxide | [OH-].[NH4+]
product | imidazo[1,2-α]pyrimidine-7-carboxylic acid amide | 310 mg, 58% | N=1C=CN2C1N=C(C=C2)C(=O)N | C7H6N4O
